US07662771B2
Add sodium hydroxide (6.0 g, 150 mmol) in water (50 mL) to a suspension of 8-(2-phenylimidazol-1-yl)octanoic acid methyl ester (7.60 g, 25 mmol) in methanol (100 mL) at 0° C. under nitrogen. Warm the mixture to room temperature and stir for a total of 8 hours. Remove the solvent under reduced pressure, dilute the residue with water (300 mL), cool to 0° C., and acidify to pH 1 with 1 N HCl. Collect the precipitate and triturate with hexanes to afford 8-(2-phenylimidazol-1-yl)octanoic acid (4.22 g, 52%). APCI mass spectrum m/z 285 [C17H22N2O2−H]−.

reactant | sodium hydroxide | 150 mmol, 6.0 g | [OH-].[Na+]
reactant | 8-(2-phenylimidazol-1-yl)octanoic acid methyl ester | 25 mmol, 7.60 g | COC(CCCCCCCN1C(=NC=C1)C1=CC=CC=C1)=O | C18H24N2O2
solvent | water | 50 mL | O | H2O
solvent | methanol | 100 mL | CO | CH4O
product | 8-(2-phenylimidazol-1-yl)octanoic acid | 4.22 g, 52% | C1(=CC=CC=C1)C=1N(C=CN1)CCCCCCCC(=O)O | C17H22N2O2
